US04648896
4,6-Dichloro-5-hydroxy-2-phenylpyrimidine
15.3 g of 4,6-dichloro-5-methoxy-2-phenylpyrimidine and 30 ml of 25% boron trichloride solution in methylene chloride are heated at 40° C. in a bomb tube for 15 hours. The reaction mixture is subsequently added dropwise to a mixture of methanol and methylene chloride (1:1), and then diluted with ice-water. The organic phase is separated, and the aqueous phase is extracted with methylene chloride. The combined organic phases are concentrated by evaporation and chromatographed on silica gel to thus obtain 8.7 g of 4,6-dichloro-5-hydroxy-2-phenylpyrimidine, m.p. 138°-140° C. (compound No. 34).

reactant | 4,6-dichloro-5-methoxy-2-phenylpyrimidine | 15.3 g | ClC1=NC(=NC(=C1OC)Cl)C1=CC=CC=C1 | C11H8Cl2N2O
reactant | boron trichloride | 30 ml | B(Cl)(Cl)Cl | BCl3
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,6-Dichloro-5-hydroxy-2-phenylpyrimidine | ClC1=NC(=NC(=C1O)Cl)C1=CC=CC=C1 | C10H6Cl2N2O
